US08008293B2
Synthesis of 1-[(2R,5S)-1-benzyl-5-(3,4,5-trifluorophenyl)pyrrolidine-2-yl]cyclopropanol
Under a nitrogen atmosphere and at room temperature, ethyl magnesium bromide (8.49 mL, tetrahydrofuran 1M solution) was added dropwise over 1 hour into an ether (10 mL) solution of (2R,5S)-1-benzyl-5-(3,4,5-trifluorophenyl)pyrrolidine-2-carboxylic acid ethyl ester (1.03 g) and titanium tetraisopropoxide (209 μL). The resultant was stirred at the same temperature for 15 hours. The reaction solution was ice-cold, and 1 N hydrochloric acid was added, stirring was continued for 30 minutes at the same temperature. Ethyl acetate was added, and the organic layer was partitioned, and after washing the organic layer with brine, the resultant was dried with magnesium sulfate. The solvent was removed under a vacuum, and the residue was purified by silica gel column chromatography, and the title compound (602 mg) was obtained. The physical property values are as follows.

reactant | ethyl magnesium bromide | 1M, 8.49 mL | C(C)[Mg]Br
reactant | ether | 10 mL | CCOCC | C4H10O
reactant | (2R,5S)-1-benzyl-5-(3,4,5-trifluorophenyl)pyrrolidine-2-carboxylic acid ethyl ester | 1.03 g | C(C)OC(=O)[C@@H]1N([C@@H](CC1)C1=CC(=C(C(=C1)F)F)F)CC1=CC=CC=C1 | C20H20F3NO2
reactant | hydrochloric acid | 1 N | Cl | ClH
catalyst | titanium tetraisopropoxide | 209 μL | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[(2R,5S)-1-benzyl-5-(3,4,5-trifluorophenyl)pyrrolidine-2-yl]cyclopropanol | 602 mg | C(C1=CC=CC=C1)N1[C@H](CC[C@H]1C1=CC(=C(C(=C1)F)F)F)C1(CC1)O | C20H20F3NO
